US09062027B2
1.3 3-[2-(2H-Indazol-2-yl)nicotinamido]-2-hydroxy-4-phenylbutanoic acid
To a suspension of ethyl 3-[2-(2H-indazol-2-yl)nicotinamido]-2-hydroxy-4-phenylbutanoate (1.05 g, 2.362 mmol) in THF (50 ml) a solution of lithium hydroxide (100 mg) in water (5 ml) was added, and the mixture was stirred overnight at room temperature. The mixture was then concentrated in vacuo and, after addition of water (100 ml), acidified using 2 N HCl. The precipitate formed was filtered off and dried to give 895 mg of the title compound as an off-white solid.

reactant | ethyl 3-[2-(2H-indazol-2-yl)nicotinamido]-2-hydroxy-4-phenylbutanoate | 2.362 mmol, 1.05 g | N=1N(C=C2C=CC=CC12)C1=C(C(=O)NC(C(C(=O)OCC)O)CC2=CC=CC=C2)C=CC=N1 | C25H24N4O4
reactant | lithium hydroxide | 100 mg | [OH-].[Li+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | water | 5 ml | O | H2O
product | 3-[2-(2H-Indazol-2-yl)nicotinamido]-2-hydroxy-4-phenylbutanoic acid | 895 mg | N=1N(C=C2C=CC=CC12)C1=C(C(=O)NC(C(C(=O)O)O)CC2=CC=CC=C2)C=CC=N1 | C23H20N4O4
